US08048982B2
Synthesis of 3,3′-[1,3-phenylenebis(methylene)]bis(2,4-pentanedione)
17.0 g (0.15 mol) of t-butokypotassium was added to 20 mL of t-butylalcohol, and then dissolved by agitating for 30 minutes under refluxing. In the above solution, under refluxing, 22.9 g (0.23 mol) of acetylacetone was dropped for 10 minutes, and then agitated for 2 hours. Thereafter, under refluxing, 20.2 g (0.08 mol) of 1,3-bis(bromomethyl)benzene was added for 30 minutes, and then agitated for 1 hour. Thereafter, under refluxing, 3.0 g (0.02 mol) of potassium iodide was added, and then agitated for 4 hours. After the completion of the agitation, the solution was cooled down to a room temperature, added with 100 mL of water, and 100 mL of diethylether, strongly agitated, and then an organic layer was separated from a water layer. The organic layer was washed twice with 100 mL of saturated aqueous salt solution, and then the organic layer was dried with anhydrous sodium sulfate, concentrated by removing the solvent and excess amount of acetylacetone under a reduced pressure to obtain a light-yellow oily crude product. The crude product was purified with a silica gel column chromatography to obtain a white solid (yield in amount 3.5 g, yield in ratio 15.1%)

reactant | t-butylalcohol | 20 mL | C(C)(C)(C)O | C4H10O
reactant | acetylacetone | 0.23 mol, 22.9 g | C(C)(=O)CC(C)=O | C5H8O2
reactant | 1,3-bis(bromomethyl)benzene | 0.08 mol, 20.2 g | BrCC1=CC(=CC=C1)CBr | C8H8Br2
reactant | potassium iodide | 0.02 mol, 3.0 g | [I-].[K+]
reactant | diethylether | 100 mL | C(C)OCC | C4H10O
solvent | water | 100 mL | O | H2O
product | 3,3′-[1,3-phenylenebis(methylene)]bis(2,4-pentanedione) | C1(=CC(=CC=C1)CC(C(C)=O)C(C)=O)CC(C(C)=O)C(C)=O | C18H22O4
